US07064201B2
5-(1,1-Dimethyl-allyl)-3H-imidazole-4-carboxylic acid ethyl ester
Another byproduct isolated from a similar reaction (smaller scale) by further elution of the column with 5% MeOH/1% Et3N in chloroform was a compound suspected of being 5-(1,1-dimethyl-allyl)-3H-imidazole-4-carboxylic acid (0.27 g, 9%).

reactant | MeOH | CO | CH4O
reactant | 5-(1,1-dimethyl-allyl)-3H-imidazole-4-carboxylic acid | 0.27 g | CC(C=C)(C)C1=C(NC=N1)C(=O)O | C9H12N2O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(1,1-Dimethyl-allyl)-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC=NC1C(C=C)(C)C | C11H16N2O2
